US08957070B2
N-{2-[5-(3-Hydrazino-3-oxopropyl)-1,3-thiazol 2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
To a mixture of 3-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)propanoic acid (0.50 g), 1H-1,2,3-benzotriazol-1-ol (0.18 g) and N,N-dimethylformamide (15 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.26 g) at room temperature. The mixture was stirred at room temperature for 1 hr and hydrazine monohydrate (0.28 g) was added. The reaction mixture was stirred at room temperature overnight, and water was added. The resulting crystals were filtrated, washed with water, and dried to give the title compound (0.29 g, yield 57%) as yellow crystals. melting point 224-226° C.

reactant | 3-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)propanoic acid | 0.50 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CCC(=O)O)S(=O)(=O)C=1SC=CC1 | C19H17N3O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.18 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.26 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrazine monohydrate | 0.28 g | O.NN
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-{2-[5-(3-Hydrazino-3-oxopropyl)-1,3-thiazol 2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.29 g, yield 57% | N(N)C(CCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O | C19H19N5O3S3
